US09255110B2
A mixture of 2,4-dichloro-7-methyl-thieno[3,2-d]pyrimidine (2.5 g), palladium hydroxide on carbon (20%, 0.5 g) and sodium acetate (2.0 g) in a mixture of ethyl acetate (40 mL) and isopropyl alcohol (5 mL) was shaken in a Parr apparatus under hydrogen atmosphere (50 PSI) overnight. The reaction mixture was filtered on a CELITE™ pad and the filtrate was evaporated under reduced pressure. The crude residue was purified by flash chromatography (DCM) to give 1.8 g of 2-chloro-7-methyl-thieno[3,2-d]pyrimidine.

reactant | 2,4-dichloro-7-methyl-thieno[3,2-d]pyrimidine | 2.5 g | ClC=1N=C(C2=C(N1)C(=CS2)C)Cl | C7H4Cl2N2S
reactant | sodium acetate | 2.0 g | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | isopropyl alcohol | 5 mL | C(C)(C)O | C3H8O
catalyst | palladium hydroxide on carbon | 0.5 g | [OH-].[OH-].[Pd+2]
product | 2-chloro-7-methyl-thieno[3,2-d]pyrimidine | 1.8 g | ClC=1N=CC2=C(N1)C(=CS2)C | C7H5ClN2S
